US07700625B2
2,4-Bis-benzyloxy-5-bromo-benzoic acid
2,4-dihydroxy-5-bromobenzoic acid (5.16 g, 22.15 mmol) was dissolved in DMF (40 ml) and potassium carbonate (12.2 g) and benzyl bromide (8 ml) were sequentially added. The mixture was stirred at room temperature for 18 hours under nitrogen. An aqueous solution of potassium hydroxide (2 g) in water (25 ml) was then added, followed by methanol (50 ml) and the mixture heated to reflux with vigorous stirring for 24 hours. The mixture was then allowed to cool, was poured into 1N HCl (250 ml) and was then extracted with ether and then DCM. The combined organic layers were dried over magnesium sulphate and the solvent evaporated in vacuo. The resulting solid material was washed with P.E. and then Et2O (3×50 ml) to yield pure product (5.2 g, 56%). 1H NMR (MeOH-d4) 8.06 (1H, s), 7.51-7.30 (10H, m), 6.85 (1H, s), 5.22 (2H, s), 5.20 (2H, s). MS: [M+H]+ 413.

reactant | 2,4-dihydroxy-5-bromobenzoic acid | 22.15 mmol, 5.16 g | OC1=C(C(=O)O)C=C(C(=C1)O)Br | C7H5BrO4
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 2 g | [OH-].[K+]
reactant | HCl | 1N, 250 ml | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2,4-Bis-benzyloxy-5-bromo-benzoic acid | 5.2 g, 56% | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)Br | C21H17BrO4
